US04474793
4-Nitrobenzyl 6-ethyl-7-oxo-3-acetylthio-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate
To a solution of 0.90 g of 4-nitrobenzyl 7-ethyl-8-oxo-3-acetylthio-4,5-dithia-1-azabicyclo[4,2,0]oct-2-ene 2-carboxylate in 2 ml of dichloromethane was added, in one bath, a solution of 0.59 g of triphenylphosphine in 3 ml of dichloromethane. After 10 minutes, the reaction mixture was chromatographed directly on silica gel, eluting with ethyl acetate/hexane mixtures, to give the title compound as a yellow crystalline solid. (Yield 0.25 g)

reactant | 4-nitrobenzyl 7-ethyl-8-oxo-3-acetylthio-4,5-dithia-1-azabicyclo[4,2,0]oct-2-ene 2-carboxylate | 0.90 g | C(C)C1C2SSC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC(C)=O | C17H16N2O6S3
reactant | triphenylphosphine | 0.59 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 4-Nitrobenzyl 6-ethyl-7-oxo-3-acetylthio-4-thia-1-azabicyclo[3,2,0]hept-2-ene-2-carboxylate | C(C)C1C2SC(=C(N2C1=O)C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])SC(C)=O | C17H16N2O6S2
